US08242125B2
LHMDS (1.0 M in THF, 7.68 mL, 7.68 mmol) is added over 1 min to a solution of (4-(4-fluoro-2-methyl-1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate (1.21 g, 3.84 mmol) and 1-isocyanato-3-(trifluoromethyl)benzene (0.70 mL, 5.08 mmol) in THF (40 mL) at −78° C. for 40 min. Saturated aqueous NH4Cl (100 mL) and water (20 mL) are added and the mixture is extracted with EtOAc (3×60 mL). The combined organic layers are washed with brine (30 mL), dried (Na2SO4), and concentrated. The residue is purified by silica gel chromatography (0-100% EtOAc/heptane) to give acetic acid 4-[4-fluoro-2-methyl-1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-2-ylmethyl ester. MS (ESI) m/z 503.0 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.99 (s, 1H) 8.68 (d, J=5.81 Hz, 1H) 8.12 (s, 1H) 7.92 (d, J=7.83 Hz, 1H) 7.66 (t, J=8.08 Hz, 1H) 7.51-7.55 (m, 2H) 7.11-7.18 (in, 2H) 6.64 (s, 1H) 5.02 (s, 2H) 2.59 (s, 3H) 1.88 (s, 3H).

reactant | LHMDS | 7.68 mmol, 1.0 M, 7.68 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (4-(4-fluoro-2-methyl-1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate | 3.84 mmol, 1.21 g | C(C)(=O)OCC1=NC=CC(=N1)OC=1C(=C2C=C(NC2=CC1)C)F | C16H14FN3O3
reactant | 1-isocyanato-3-(trifluoromethyl)benzene | 5.08 mmol, 0.70 mL | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | acetic acid 4-[4-fluoro-2-methyl-1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-2-ylmethyl ester | FC1=C2C=C(N(C2=CC=C1OC1=NC(=NC=C1)COC(C)=O)C(NC1=CC(=CC=C1)C(F)(F)F)=O)C | C24H18F4N4O4
